US04816454
6-(4-(5-Methyl-1,3,4-oxadiazol-2-yl)-methoxy-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
10.1 g (0.033 mole) of 4-(4-(5-methyl-1,3,4-oxadiazol-2-yl)-methoxy-phenyl)-4-oxo-3-methyl-butyric acid and 2.1 ml (0.043 mole) of hydrazine hydrate are stirred in 100 ml of ethanol at 50° C. for 1 hour. After addition of a mixture of diethyl ether/ligroin until cloudiness results, the product crystallises out. After filtering off with suction, the product is recrystallised from 500 ml of isopropanol.

reactant | 4-(4-(5-methyl-1,3,4-oxadiazol-2-yl)-methoxy-phenyl)-4-oxo-3-methyl-butyric acid | 0.033 mole, 10.1 g | CC1=NN=C(O1)C1=CC(=C(C=C1)C(C(CC(=O)O)C)=O)OC | C15H16N2O5
reactant | hydrazine hydrate | 0.043 mole, 2.1 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-(4-(5-Methyl-1,3,4-oxadiazol-2-yl)-methoxy-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | CC1=NN=C(O1)C1=CC(=C(C=C1)C=1C(CC(NN1)=O)C)OC | C15H16N4O3
